US09290500B2
5-Methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7(4H)-one (210 mg, 0.932 mmol) is heated in phosphoryl chloride (1.74 mL, 18.6 mmol) in a sealed vial at 100° C. for 2 hr. The reaction mixture is cooled to room temperature and slowly poured over ice. The resulting suspension is extracted with dichloromethane and washed with brine. The organic layer is dried over Na2SO4, filtered and concentrated in vacuo. The crude material is purification by column chromatography (eluent 0-100% ethyl acetate:hexanes) to provide 7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidine (123 mg, yield 54%). LCMS: (AA) M+1 244; 1H NMR (400 MHz, DMSO) δ 8.07-8.02 (m, 2H), 7.53-7.47 (m, 2H), 7.46-7.41 (m, 1H), 7.32 (s, 1H), 7.23 (s, 1H), 2.53 (s, 3H).

reactant | 5-Methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7(4H)-one | 0.932 mmol, 210 mg | CC=1NC=2N(C(C1)=O)N=C(C2)C2=CC=CC=C2 | C13H11N3O
reactant | phosphoryl chloride | 18.6 mmol, 1.74 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidine | 123 mg, yield 54% | ClC1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)C | C13H10ClN3
